US04064247
A solution of 5-aminoisoquinoline (14.4 g.) in pyridine (40 cc.) is added dropwise to a solution of triethylamine (10.1 g.) and carbon disulphide (40 cc.) in pyridine (20 cc.), whilst stirring at a temperature of about -10° C. After 1 hour at this temperature, a solution of N,N'-dicyclohexylcarbodiimide (20.6 g.) in pyridine (20 cc.) is added dropwise. Stirring is continued for 3 hours at a temperature changing from -10° to 20° C . and then for 20 hours at a temperature of about 20° C. The N,N'-dicyclohexylthiourea formed is filtered off and washed with methylene chloride (50 cc.); the filtrate is evaporated to dryness under reduced pressure (20 mm. Hg) at 40° C. The solid residue is taken up in methylene chloride (100 cc.); the new insoluble material is filtered off and washed with methylene chloride (30 cc.); the filtrate is evaporated to dryness under reduced pressure (20 mm. Hg) at 40° C. The residue is dissolved in boiling acetonitrile (100 cc.); after cooling, the crystals formed are filtered off and then suspended in diisopropyl ether (180 cc.). After 30 minutes'stirring at a temperature of about 20° C, the insoluble material is filtered off. The filtrate is evaporated to dryness under reduced pressure (20 mm. Hg) at 50° C. The residue is crystalline beige solid (5.9 g.) consisting of 5-isothiocyanatoisoquinoline, melting at 99° C. after recrystallisation from acetonitrile (40 cc.) and at 102° C. after sublimation at 70° C under reduced pressure (1 mm. Hg).

reactant | 5-aminoisoquinoline | 14.4 g | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulphide | 40 cc | C(=S)=S | CS2
reactant | N,N'-dicyclohexylcarbodiimide | 20.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 40 cc | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 cc | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 cc | N1=CC=CC=C1 | C5H5N
product | N,N'-dicyclohexylthiourea | C1(CCCCC1)NC(=S)NC1CCCCC1 | C13H24N2S
